US06187774B1
Triethylamine (1.4 ml) and methanesulfonyl chloride (0.62 ml) were added to a solution of 3-(3-hydroxypropyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine (0.98 g) obtained in the same manner as in Example 4 in dimethylformamide (20 ml) with stirring. Then, 4-benzylpiperidine (0.88 g), potassium carbonate (1.38 g) and potassium iodide (0.83 g) were added and the mixture was stirred for 4 hours at 60° C. After the completion of the reaction, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water, and dried over magnesium sulfate. The solution was concentrated under reduced pressure to give 3-(3-(4-benzylpiperidin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine.

reactant | methanesulfonyl chloride | 0.62 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(3-hydroxypropyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine | 0.98 g | OCCCC1=NN=C2N1CCCCC2 | C10H17N3O
reactant | 4-benzylpiperidine | 0.88 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.83 g | [I-].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | 3-(3-(4-benzylpiperidin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine | C(C1=CC=CC=C1)C1CCN(CC1)CCCC1=NN=C2N1CCCCC2 | C22H32N4
